US06683111B2
Ethyl 3-{4-[3-(6H-dibenzo[b,e]oxepin-11-ylidene}-propoxy]-phenyl)-2-ethoxy-propionate
Diethyl azodicarboxylate (0.235 ml, 1.49 mmol) was added at 0° C. to a stirred solution of triphenylphosphine (0.392 g, 1.49 mmol) and 3-(6H-dibenzo[b,e]oxepin-11-ylidene)-1-propanol (0.252 g, 1.0 mmol) in dry THF (5 ml) and the mixture stirred for 5 min. A solution of ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.356 g, 1.49 mmol) in dry THF (5 ml) was then added, the mixture allowed to warm to room temperature, and stirring continued for 18 h. The resulting mixture was treated with water (50 ml), and the products extracted into dichloromethane (4×50 ml). The extracts were combined, washed with brine, dried (Na2SO4) and evaporated to an orange gum. This was then purified by column chromatography on silica gel (20% Et2O in petroleum eluent) to give the title compound as an inseparable 4:1 mixture of E and Z double-bond isomers, as a pale yellow gum; 0.252 g (53%).

reactant | Diethyl azodicarboxylate | 1.49 mmol, 0.235 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.49 mmol, 0.392 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(6H-dibenzo[b,e]oxepin-11-ylidene)-1-propanol | 1.0 mmol, 0.252 g | C1=CC=CC=2OCC3=C(C(C21)=CCCO)C=CC=C3 | C17H16O2
reactant | ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 1.49 mmol, 0.356 g | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | Ethyl 3-{4-[3-(6H-dibenzo[b,e]oxepin-11-ylidene}-propoxy]-phenyl)-2-ethoxy-propionate | C1=CC=CC=2OCC3=C(C(C21)=CCCOC2=CC=C(C=C2)CC(C(=O)OCC)OCC)C=CC=C3 | C30H32O5
